US07192968B2
(±)-cis-N1-[(6-Chloroimidazo[1,2-a]pyridin-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
Ethyl 6-chloroimidazo[1,2-a]pyridine-2-carboxylate (Japanese Patent Application Laid-Open No. 11-500123 through PCT route) (150 mg) was dissolved in tetrahydrofuran (4 ml), and water (1 ml) and lithium hydroxide (18 mg) were added at room temperature to stir the mixture for 1 hour. The reaction mixture was concentrated under reduced pressure to obtain crude lithium 6-chloroimidazo[1,2-a]pyridine-2-carboxylate. This product was dissolved in N,N-dimethylformamide (4.0 ml), and (±)-cis-N-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexane-diamine hydrochloride (232 mg), 1-hydroxybenzotriazole monohydrate (180 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (256 mg) and triethylamine (371 μl) were added to this solution to stir the mixture at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure, and water and a saturated aqueous solution of sodium hydrogencarbonate were added to the residue to conduct extraction with dichloromethane. The resultant organic layer was then dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by column chromatography on silica gel (dichloromethane:acetone=1:1→dichloromethane:acetone:methanol=5:5:1) to obtain a white solid. To this solid, were added dichloromethane, methanol and 1N hydrochloric acid, and the resultant mixture was concentrated to obtain the title compound (224 mg) as a pale brown solid.

reactant | (±)-cis-N-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexane-diamine hydrochloride | 232 mg | Cl.CN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@H](CCCC2)N
reactant | 1-hydroxybenzotriazole monohydrate | 180 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 256 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 371 μl | C(C)N(CC)CC | C6H15N
product | (±)-cis-N1-[(6-Chloroimidazo[1,2-a]pyridin-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 224 mg | Cl.ClC=1C=CC=2N(C1)C=C(N2)C(=O)N[C@H]2[C@H](CCCC2)NC(=O)C=2SC=1CN(CCC1N2)C | InChI=1S/C22H25ClN6O2S.ClH/c1-28-9-8-16-18(12-28)32-22(27-16)21(31)26-15-5-3-2-4-14(15)25-20(30)17-11-29-10-13(23)6-7-19(29)24-17;/h6-7,10-11,14-15H,2-5,8-9,12H2,1H3,(H,25,30)(H,26,31);1H/t14-,15+;/m1./s1
